US05808149
Then, trifluoromethanesulfonic acid anhydride was distilled off by simple distillation from the reaction mixture under a pressure of 160 torr by raising the temperature from 45° C. to 160° C. with the heat medium flow through the jacket. This distillation was continued until the end of boiling of trifluoromethanesulfonic acid anhydride, thereby to obtain 358.1 kg of trifluoromethanesulfonic acid anhydride which is colorless and transparent. By chemical analysis, this first distillate was found to have a purity of at least 99 wt % and contain up to 0.5 wt % of trifluoromethanesulfonic acid ester, up to 0.5 wt % of trifluoromethanesulfonic acid, up to 5 wt ppm of phosphorus, and 500 wt ppm of free fluorine. The actual amount of trifluoromethanesulfonic acid anhydride produced by the reaction was 38.1 kg obtained by subtracting 320 kg from 358.1 kg, and the yield was 81%, based on the amount of trifluoromethanesulfonic acid.

reactant | trifluoromethanesulfonic acid | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | phosphorus | [P] | P
reactant | fluorine | FF | F2
product | trifluoromethanesulfonic acid anhydride | yield was 81% | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
